US03994890
By the procedure similar to that described in Example 1, 3-phenylindazole (3.88 g) and diethylaminoethyl chloride hydrochloride (5.16 g) were treated to obtain 2.0 g of 1-diethylaminoethyl-3-phenylindazole hydrochloride (m.p. 114°-118° C).

reactant | 3-phenylindazole | 3.88 g | C1(=CC=CC=C1)C1=NNC2=CC=CC=C12 | C13H10N2
reactant | diethylaminoethyl chloride hydrochloride | 5.16 g | Cl.C(C)N(CC)CCCl
product | 1-diethylaminoethyl-3-phenylindazole hydrochloride | 2.0 g | Cl.C(C)N(C(C)C1=C2C(=NNC2=CC=C1)C1=CC=CC=C1)CC | InChI=1S/C19H23N3.ClH/c1-4-22(5-2)14(3)16-12-9-13-17-18(16)19(21-20-17)15-10-7-6-8-11-15;/h6-14H,4-5H2,1-3H3,(H,20,21);1H
